US07989633B2
Methyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate
1 g (5.31 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde, 680 mg (5.84 mmol) of methyl 3-oxobutanoate, 456 μl (7.97 mmol) of acetic acid and 105 μl (1.06 mmol) of piperidine in 50 ml of anhydrous dichloromethane are stirred under reflux with a water trap for 24 h. After cooling, the reaction solution is diluted with dichloromethane (100 ml) and washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and concentrated. The residue is recrystallized from isopropanol. 1.43 g (94% of theory) of the title compound are obtained as an E/Z mixture.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 5.31 mmol, 1 g | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | methyl 3-oxobutanoate | 5.84 mmol, 680 mg | O=C(CC(=O)OC)C | C5H8O3
reactant | acetic acid | 7.97 mmol, 456 μl | C(C)(=O)O | C2H4O2
reactant | piperidine | 1.06 mmol, 105 μl | N1CCCCC1 | C5H11N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Methyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)OC)C(C)=O | C16H14O5
